US05455253
1-Morpholino-1-cyclohexene (13.28 g) was added dropwise to a stirred solution of 3-nitrobenzaldehyde (10.0 g) and 65 mL of dry toluene, under nitrogen. After stirring at room temperature for 5 days the mixture was treated with 75 mL of 5N HCl, stirred an additional 15 minutes and the layers separated. The aqueous phase was extracted with three additional 75 mL portions of toluene, the toluene extracts were dried (MgSO4), filtered and the solvent evaporated. The resulting yellow oil which turned greenish on standing overnight was chromatographed, with methylene chloride as elutent, to yield 2-(α-hydroxy-3-nitrobenzyl)cyclohexanone (6.35 g) as a yellow oil; MS (CI, CH4): m/z=250(M+1). The yellow oil was dissolved in ethyl ether (50 mL) and treated with 50 mL of concentrated hydrochloric acid. After stirring overnight the layers were separated and the aqueous phase extracted with ethyl ether. The combined extracts were dried (MgSO4), filtered and evaporated to yield crude 2-(3-nitrophenyl)methylenecyclohexanone as low melting orange crystals (4.69 g), which were used without further purification. NMR CDCl3): 1.79-1.89 (m,2, CH2), 1.93-2.01 (m,2, CH2), 2.56-2.60 (m,2, CH2), 2.82-2.87 (m,2, CH2), 7.47 (s,1, olefinic), 7.58 (t,1, J= 7.9, Ar), 7.69 (d,1, J=7.7, Ar), 8.19 (d,1, J=8.9, Ar), 8.24 (s,1, Ar); MS (CI, CH4): m/z=232(M+1).

reactant | 1-Morpholino-1-cyclohexene | 13.28 g | O1CCN(CC1)C1=CCCCC1 | C10H17NO
reactant | 3-nitrobenzaldehyde | 10.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | HCl | 5N, 75 mL | Cl | ClH
reactant | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(α-hydroxy-3-nitrobenzyl)cyclohexanone | 6.35 g | OC(C1=CC(=CC=C1)[N+](=O)[O-])C1C(CCCC1)=O | C13H15NO4
